US06320050B1
A solution of 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid (185 mg, 0.64 mmol) in methylene chloride (6.5 mL) was cooled to 0° C. and was treated with a 2.0 M solution of oxalyl chloride in methylene chloride (0.35 mL, 0.71 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (142 mg, 1.42 mmol) in tetrahydrofuran (3.23 mL) and N,N-diisopropylethylamine (0.27 mL, 1.55 mmol). The solution was stirred at 25° C. for 5 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-thiazol-2-yl-2-(4-trifluoromethyl-phenyl)-propionamide (127 mg, 53.3%) as a white solid: mp 210-212° C.; EI-HRMS m/e calcd for C18H19F3N2OS (M+) 368.1175, found 368.1170.

reactant | 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid | 0.64 mmol, 185 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H17F3O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 1.42 mmol, 142 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 1.55 mmol, 0.27 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 6.5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3.23 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 0.71 mmol, 0.35 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-thiazol-2-yl-2-(4-trifluoromethyl-phenyl)-propionamide | 127 mg, 53.3% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C(F)(F)F | C18H19F3N2OS
